US09290517B2
Step B 1-[5-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]-2-methyl-propan-2-ol
Pd(II)(OAc)2 (7.7 mg, 0.034 mmol) was added to a stirred suspension of 1-(5-(4-chloro-2-fluorophenyl)-5,6-dihydropyrrolo[3,4-c]pyrazol-2(4H)-yl)-2-methylpropan-2-ol (35.7 mg, 0.115 mmol), bis(pinacolato)diboron (53.2 mg, 0.209 mmol), potassium acetate (50.0 mg, 0.509 mmol), and 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropylbiphenyl (9.7 mg, 0.020 mmol) in dioxane (1.2 ml). The reaction mixture was degassed and placed under nitrogen before being heated to 80° C. After 2 hours, the reaction mixture was cooled to room temperature before being partitioned between EtOAc and water (30 ml). The aqueous layer was extracted with EtOAc (2×20 ml). The organic layers were combined, washed with brine (1×20 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a dark amber residue. This material was dissolved in EtOAc and loaded onto a 500 micron 20 cm×20 cm silica gel plate, which was developed using 60% EtOAc/hexane. The silica containing the product band (Rf=0.5) was collected and extracted with EtOAc (80 ml). The solvent was evaporated under reduced pressure to give the title compound as an amber oil. LC-MS: calculated for C21H29BFN3O3 401.23 observed m/e: 402.17 (M+H)+ (Rt 1.25/2 min)

reactant | 1-(5-(4-chloro-2-fluorophenyl)-5,6-dihydropyrrolo[3,4-c]pyrazol-2(4H)-yl)-2-methylpropan-2-ol | 0.115 mmol, 35.7 mg | ClC1=CC(=C(C=C1)N1CC2=NN(C=C2C1)CC(C)(O)C)F | C15H17ClFN3O
reactant | bis(pinacolato)diboron | 0.209 mmol, 53.2 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.509 mmol, 50.0 mg | C(C)(=O)[O-].[K+]
reactant | 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropylbiphenyl | 0.020 mmol, 9.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 1-[5-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]-2-methyl-propan-2-ol | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)N1CC2=NN(C=C2C1)CC(C)(O)C | C21H29BFN3O3
